US05672714
In 30 ml of acetone, 5.28 g (0.01 mol) of 2-(3-dodecoxypropylcarbamoyl)-5-isobutoxycarbonylamino-1-naphthol synthesized in accordance with the method described in JP-A No. 123158/1987 was dissolved and 2.00 g (0.01 mol) of 1,3-dichloro-5,5-dimethylhydantoin was added to the solution, followed by stirring for 2 hours at room temperature. Then 50 ml of ethyl acetate was added to the reaction mixture, followed by washing with a 5% aqueous sodium hydroxide solution and then washing with water. The solvent was distilled off and crystallization from acetonitrile was carried out, to give 5.17 g (yield: 92%) of 2-(3-dodecoxypropylcarbamoyl)-4-chloro-5-isobutoxycarbonylamino-1-naphthol

reactant | 2-(3-dodecoxypropylcarbamoyl)-5-isobutoxycarbonylamino-1-naphthol | 0.01 mol, 5.28 g | C(CCCCCCCCCCC)OCCCNC(=O)C1=C(C2=CC=CC(=C2C=C1)NC(=O)OCC(C)C)O | C31H48N2O5
reactant | 1,3-dichloro-5,5-dimethylhydantoin | 0.01 mol, 2.00 g | ClN1C(=O)N(C(=O)C1(C)C)Cl | C5H6Cl2N2O2
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-(3-dodecoxypropylcarbamoyl)-4-chloro-5-isobutoxycarbonylamino-1-naphthol | 5.17 g, yield: 92% | C(CCCCCCCCCCC)OCCCNC(=O)C1=C(C2=CC=CC(=C2C(=C1)Cl)NC(=O)OCC(C)C)O | C31H47ClN2O5
